US07514470B2
D. N-[4-Cyano-3-(trifluoromethyl)phenyl]-N-(2,2-dimethylpropyl)glycine
To a stirred slurry of 4-[(2,2-dimethylpropyl)(2-oxoethyl)amino]-2-(trifluoromethyl)benzonitrile (1.20 g, 4.03 mmol) and 2-methyl-2-butene (4.3 mL, 40 mmol) in t-BuOH (30 mL) at rt was added a solution of NaClO2 (0.591 g of 80% tech. grade; 5.2 mmol) in NaH2PO4 buffer (6 mL, 1.5 M NaH2PO4, adjusted to pH 3.5 with 1 N HCl), dropwise over 5 min (slightly exothermic). After complete dissolution of slurried solids, the flask was stoppered with a rubber septum and placed under balloon pressure of nitrogen for 3 h. Water (100 mL) was added, the whole was adjusted to ca. pH 11 by addition of 15 wt % NaOH, and partially concentrated in vacuo. The aqueous residue was extracted with Et2O (×2), adjusted to ca. pH 1 by addition of 2 N HCl and extracted with EtOAc (×3). The combined EtOAc extracts were washed (brine), dried over Na2SO4, filtered and concentrated to dryness, affording 1.16 g of the title compound as a colorless foam: 1H NMR (400 MHz, CDCl3) δ 7.59 (d, J=8.9 Hz, 1H), 7.01 (d, J=2.2 Hz, 1H), 6.79 (dd, J=8.9, 2.5 Hz, 1H), 4.24 (s, 2H), 3.31 (s, 2H), 1.02 (s, 9H).

reactant | 4-[(2,2-dimethylpropyl)(2-oxoethyl)amino]-2-(trifluoromethyl)benzonitrile | 4.03 mmol, 1.20 g | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC=O)(C)C | C15H17F3N2O
reactant | 2-methyl-2-butene | 40 mmol, 4.3 mL | CC(C)=CC | C5H10
reactant | NaClO2 | 5.2 mmol, 0.591 g | [O-]Cl=O.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | t-BuOH | 30 mL | CC(C)(C)O | C4H10O
solvent | Water | 100 mL | O | H2O
product | N-[4-Cyano-3-(trifluoromethyl)phenyl]-N-(2,2-dimethylpropyl)glycine | 1.16 g | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CC(C)(C)C)C(F)(F)F | C15H17F3N2O2
